US06949648B2
3-Ethyl-6,7-difluoro-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one
To a solution of 4-chloro-3-ethyl-6,7-difluoro-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (2.49 g, 7.22 mmol) in ethanol (120 mL), 6N hydrochloric acid (6 mL, 36.0 mmol) was added and the mixture was heated under reflux for 6 hours. The solution was allowed to cool to room temperature, and the resulting crystals were collected by filtration. The crystals were washed with ethanol, air dried, and recrystallized from ethanol to give the title compound (1.73 g, 73% yield).

reactant | 4-chloro-3-ethyl-6,7-difluoro-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 7.22 mmol, 2.49 g | ClC1=C2C(=NC3=CC(=C(C=C13)F)F)N(N=C2CC)C2=NC=CC=C2 | C17H11ClF2N4
reactant | hydrochloric acid | 36.0 mmol, 6N, 6 mL | Cl | ClH
reactant | ethanol | 120 mL | C(C)O | C2H6O
product | 3-Ethyl-6,7-difluoro-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 1.73 g, 73% yield | C(C)C1=NN(C=2NC3=CC(=C(C=C3C(C21)=O)F)F)C2=NC=CC=C2 | C17H12F2N4O
